US07781431B2
5-(4-chlorophenyl)-6-cyclohexyl-N-methyl-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxamide
A solution (0.02 M) of 5-(4-chlorophenyl)-6-cyclohexyl-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylic acid in DCM at RT was treated with methylamine (2 N solution in THF, 1.5 eq.), DIEA (3 eq.) and HATU (2 eq.). The mixture was stirred at RT for 2 h, then it was diluted with DCM and washed sequentially with aqueous HCl (0.1 N), aqueous NaHCO3 (saturated solution) and dried. Evaporation of the solvent under reduced pressure gave a residue which was purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 10 micron, 19×100 mm; flow: 20 mL/min; Gradient: A: H2O+0.05% TFA; B: MeCN+0.05% TFA; 50% A isocratic for 1 min then linear to 20% A in 9 min) to afford the title compound (74%) as a solid.

reactant | 5-(4-chlorophenyl)-6-cyclohexyl-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 0.02 M | ClC1=CC=C(C=C1)C1=C(C2=C(N1CC(=O)N1CCOCC1)C=C(S2)C(=O)O)C2CCCCC2 | C25H27ClN2O4S
reactant | methylamine | 2 N, 1.5 eq. | CN | CH5N
reactant | DIEA | 3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(4-chlorophenyl)-6-cyclohexyl-N-methyl-4-(2-morpholin-4-yl-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxamide | 74% | ClC1=CC=C(C=C1)C1=C(C2=C(N1CC(=O)N1CCOCC1)C=C(S2)C(=O)NC)C2CCCCC2 | C26H30ClN3O3S
